US05811427
The 2-trifluoromethyl-4-methyl-4-ethyl-5-chloro-5-(dichloromethyl)oxazoline hydrochloride prepared in the preceding step was dissolved in 1800 ml of methanol, 72 ml of water, and 190 ml of concentrated hydrochloric acid, warmed up to 50° C. and stirred at that temperature overnight. The crude reaction mixture was cooled down and poured into a mixture of ice/water/ethyl ether. The phases were separated and the ether layer was extracted once with water. The ether was saved (organic I). The combined aqueous layers were washed once with ethyl ether, and the organic layer was combined with organic I (organic II). The aqueous layer was neutralized with saturated aqueous sodium bicarbonate and extracted twice with ethyl ether. The combined ether layers were washed with water then brine, dried over anhydrous magnesium sulfate, treated with activated charcoal and filtered through Celite® filter agent. Anhydrous hydrogen chloride was bubbled into the filtrate while the temperature was maintained below 20° C. A white solid resulted. The white solid was filtered and dried yielding 124.8 g of the expected 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride as a white solid. The ethyl ether filtrate was combined with organic II and concentrated in vacuo The resulting residue (150 g) was taken up in a mixture of methanol/water/concentrated hydrochloric acid and heated at 50° C. for 72 hours. Filtration and drying as described above yielded another 51 g of 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride. The total amount obtained was 175.8 g (61%).

reactant | 2-trifluoromethyl-4-methyl-4-ethyl-5-chloro-5-(dichloromethyl)oxazoline hydrochloride | Cl.FC(C=1OC(C(N1)(CC)C)(C(Cl)Cl)Cl)(F)F
reactant | water | 72 ml | O | H2O
reactant | hydrochloric acid | 190 ml | Cl | ClH
solvent | methanol | 1800 ml | CO | CH4O
product | 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride | 124.8 g | Cl.NC(C(C(Cl)Cl)=O)(CC)C | InChI=1S/C6H11Cl2NO.ClH/c1-3-6(2,9)4(10)5(7)8;/h5H,3,9H2,1-2H3;1H
